US06967184B2
4. Synthesis of C6F5OSi(CH3)3:
n-Butyllithium (9.75 mL, 22.39 mmol, 2.5 M in hexane) was added dropwise, at 0° C., to a 200 mL hexane solution of C6F5OH (4.08 g, 22.17 mmol). After the addition of n-butyllithium was complete, the reaction mixture was allowed to warm to room temperature. Chlorotrimethylsilane (2.65 g, 24.39 mmol) was added to the reaction at −40° C. After slowly warming to room temperature, the reaction was refluxed for 19 hours. Isolation of the crude product was achieved by ether extraction. The organic was washed with ammonium chloride, water, brine, and dried over sodium sulfate. Solvent was removed in vacuo to yield 4.0 g of crude product. The resulting liquid was purified by vacuum distillation to give 3.4 g (60%) of a colorless liquid. 1H NMR (C6D6): δ 0.081 (br. s).

reactant | n-Butyllithium | 22.39 mmol, 2.5 M, 9.75 mL | C(CCC)[Li]
reactant | C6F5OH | 22.17 mmol, 4.08 g | C1(=C(F)C(F)=C(F)C(F)=C1F)O | C6HF5O
reactant | Chlorotrimethylsilane | 24.39 mmol, 2.65 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | hexane | 200 mL | CCCCCC | C6H14
product | C6F5OSi(CH3)3 | 3.4 g, 60% | C1(=C(F)C(F)=C(F)C(F)=C1F)O[Si](C)(C)C | C9H9F5OSi
